US07727988B2
5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E60)
A solution of 3-[5-(2-chloro-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep97, 128 mg, 0.46 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 104 mg, 0.46 mmol), and AcOH (32 μl) in dichloroethane-MeOH (10-01, 4 ml) was cooled to 0° C. NaBH(AcO)3 (102 mg, 0.48 mmol) was added portionwise. The mixture was stirred at 0° C. for further 1 hour and then basified with 1N NaOH. The product was extracted with DCM. The organic phase was dried (Na2SO4) and evaporated. The crude was purified by flash chromatography eluting with DCM-MeOH—NH4OH (98:2:0.2) to give 77 mg of the free base of title compound (34% yield).

reactant | 3-[5-(2-chloro-pyridin-3-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.46 mmol, 128 mg | ClC1=NC=CC=C1C=1C(NC(N(C1)CCC=O)=O)=O | C12H10ClN3O3
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.46 mmol, 104 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | NaBH(AcO)3 | 0.48 mmol, 102 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane MeOH | 4 ml | ClC(C)Cl.CO
solvent | AcOH | 32 μl | CC(=O)O | C2H4O2
product | 5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 34% yield | Cl.Cl.ClC1=NC=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H22ClF3N4O2.2ClH/c25-20-18(3-1-8-29-20)19-13-32(22(34)30-21(19)33)10-2-9-31-12-17-11-23(17,14-31)15-4-6-16(7-5-15)24(26,27)28;;/h1,3-8,13,17H,2,9-12,14H2,(H,30,33,34);2*1H/t17-,23+;;/m0../s1
